US07449481B2
Compound O7: (2-Benzo[b]thiophene-5-yl-phenyl)-methanol
To a suspension of 2-Benzo[b]thiophene-5-yl-benzaldehyde (compound PRE14) (3.31 g, 13.9 mmole) in methanol (30 mL) was added at 0-5° C. portionwise NaBH4 (0.528 g, 13.9 mmole). At the end of the addition, the cooling bath was removed and the reaction mixture was stirred at room temperature for 2 h. After concentration, the residue was diluted with water and diethyl ether, the organic layer dried over Na2SO4 and concentrated to give 3.13 g of compound O7 as an orange brown oil (Yield=94%).

reactant | 2-Benzo[b]thiophene-5-yl-benzaldehyde | 13.9 mmole, 3.31 g | S1C2=C(C=C1)C=C(C=C2)C2=C(C=O)C=CC=C2 | C15H10OS
reactant | NaBH4 | 13.9 mmole, 0.528 g | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (2-Benzo[b]thiophene-5-yl-phenyl)-methanol | 3.13 g | S1C2=C(C=C1)C=C(C=C2)C2=C(C=CC=C2)CO | C15H12OS
